* F:\electricalDesignProjects\beverageWarmer1\ltSpiceSim\beverageWarmerSim2\beverageWarmerSim2.asc
XU1 N006 N001 5V 0 N002 LT1001
XU2 N007 N003 5V 0 N004 LT1001
R1 N002 N001 2k
R2 N001 0 1k
R3 10V N006 10k
R4 N006 0 1000
R5 N007 N002 1k
R6 N007 N009 1k
R7 5V N009 5.5k
R8 N009 0 1k
R9 N003 0 1k
R10 N004 N003 1k
XU3 N008 N004 12V 0 N005 AD820
R11 N004 0 1k
R12 N005 N004 10k
XU4 N013 N008 5V 0 N012 AD820
R13 N012 N008 1k
C1 N008 0 10n
R14 N012 N013 1k
R15 5V N013 1k
R16 N013 0 1k
M1 N010 N005 12V 12V IRF7205
D1 0 N010 B550C
L1 N010 N011 22µ
C2 N011 0 22µ
C3 N011 0 22µ
V1 5V 0 5
V2 NC_01 0 10
V3 12V 0 12
D2 0 10V MMBZ10VAL
R18 12V 10V 1k
R17 P001 N011 1
R19 P002 P001 1
R20 P003 P002 1
R21 P004 P003 1
R22 P005 P004 1
R23 0 P005 1
.model D D
.lib C:\Users\Taque\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Taque\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 1m 0 0.1u
* 10V Ref (using zener)
* Voltage Sources
* Astable Vibrator
* Shmitt Trigger
* DC Offset
* Thermistor Calibration
* Buck Converter
* Thermistor\n(B57891M0102J000)
.lib ADI1.lib
.lib LTC.lib
.backanno
.end
